US06031015
Synthesis of 2,5-bis-(10-hydroxydecoxy)terephthalic acid
A solution of 20.0 g (303 mmol) 85% aqueous KOH in 200 ml water is added to 38.0 g (58.4 mmol) diethyl-2,5-bis-(10-acetoxydecoxy)terephthalate in 200 ml ethanol and the whole is heated under reflux for 1.5 hours. 28.0 ml conc. HCl are then added dropwise with ice-cooling and stirring until the solution shows an acidic pH. The precipitated, colourless crude product is filtered off, washed neutral and recrystallized from ethanol and methanol/acetone.

reactant | KOH | 303 mmol, 20.0 g | [OH-].[K+]
reactant | diethyl-2,5-bis-(10-acetoxydecoxy)terephthalate | 58.4 mmol, 38.0 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCCCCCOC(C)=O)OCCCCCCCCCCOC(C)=O)=O | C36H58O10
reactant | HCl | 28.0 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2,5-bis-(10-hydroxydecoxy)terephthalic acid | OCCCCCCCCCCOC1=C(C(=O)O)C=C(C(=C1)C(=O)O)OCCCCCCCCCCO | C28H46O8
